US07799798B2
Synthesis of 4′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,6′-thieno[3,2-b]pyrrol]-5′(4′H)-one
Following the procedure as described in EXAMPLE 1, and making non-critical variations using 6-(6-hydroxy-1,3-benzodioxol-5-yl)-6-(hydroxymethyl)-4-pentyl-4,6-dihydro-5H-thieno[3,2-b]pyrrol-5-one to replace 3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one, the title compound was obtained (13%): 1H NMR (300 MHz, DMSO-d6) δ 7.30 (d, 1H), 6.79 (d, 1H), 6.46 (s, 1H), 6.16 (s, 1H), 5.88-5.83 (m, 2H), 4.86 (d, 1H), 4.62 (d, 1H), 3.80-3.56 (m, 2H), 1.73-1.11 (m, 6H), 0.88 (t, 3H); MS (ES+) m/z 358.3 (M+1).

reactant | 6-(6-hydroxy-1,3-benzodioxol-5-yl)-6-(hydroxymethyl)-4-pentyl-4,6-dihydro-5H-thieno[3,2-b]pyrrol-5-one | OC=1C(=CC2=C(OCO2)C1)C1(C2=C(N(C1=O)CCCCC)C=CS2)CO | C19H21NO5S
reactant | 3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one | OC=1C(=CC2=C(OCO2)C1)C1(C(N(C2=NC=CC=C21)CCCCC)=O)CO | C20H22N2O5
product | 4′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,6′-thieno[3,2-b]pyrrol]-5′(4′H)-one | C(CCCC)N1C2=C(C3(C1=O)COC=1C3=CC3=C(OCO3)C1)SC=C2 | C19H19NO4S
